Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / ibuprofen
 
Attending: ___.
 
Chief Complaint:
The patient is a ___ year old male who reports that last evening 
he became suddenly SOB, sweaty, and clammy while at ___ 
house. At that time he used a fan to cool off and went home. He 
then went home to sleep and continued to feel short of breath. 
He reports he slept on his side because of SOB when laying flat. 
In addition he has back pain that he refers to has "lung pain" 
that he rates at ___ that started at the same time as his 
shortness of breath and claminess yesterday evening. In addition 
he notes weakness in both lower extremities that started today. 
He also notes that at baseline he has pins and needles sensation 
in right lower extremity from peripheral neuropathy. This 
morning he subsequently went to the an OSH emergency room and 
was transferred to ___ for further work up. At the OSH patient 
thought to have large bilateral PE's and trop of 0.32. 

He denies any fevers, nausea, vomitting, abdominal pain, 
dysuria, chest pain, history of stroke, surgery in the last 2 
months, hematoschezia, epistaxis, or history hypertension or 
hypertesnive crisis. The patient does endorse a history of 
hemorrhoids. In addition 2 weeks ago the patient traveled to 
___ which was a 3 hour car ride but has not traveled recently. 


He also endorses chronic back pain in his lumbar spine that is 
currently ___. 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ year old male who reports that last evening 
he became suddenly SOB, sweaty, and clammy while at ___ 
___. At that time he used a fan to cool off and went home. He 
then went home to sleep and continued to feel short of breath. 
He reports he slept on his side because of SOB when laying flat. 
In addition he has back pain that he refers to has "lung pain" 
that he rates at ___ that started at the same time as his 
shortness of breath and claminess yesterday evening. In addition 
he notes weakness in both lower extremities that started today. 
He also notes that at baseline he has pins and needles sensation 
in right lower extremity from peripheral neuropathy. This 
morning he subsequently went to the an OSH emergency room and 
was transferred to ___ for further work up. At the OSH patient 
thought to have large bilateral PE's and trop of 0.32. 

He denies any fevers, nausea, vomitting, abdominal pain, 
dysuria, chest pain, history of stroke, surgery in the last 2 
months, hematoschezia, epistaxis, or history hypertension or 
hypertesnive crisis. The patient does endorse a history of 
hemorrhoids. In addition 2 weeks ago the patient traveled to 
___ which was a 3 hour car ride but has not traveled recently. 


He also endorses chronic back pain in his lumbar spine that is 
currently ___. 
 
Past Medical History:
CHRONIC LOW BACK PAIN 
DEEP VENOUS THROMBOSIS 
DEGENERATIVE JOINT DISEASE 
DIABETES TYPE I 
HYPERLIPIDEMIA 

 
Social History:
___
Family History:
Mother with many clots throughout her lifetime. Starting getting 
DVT's at age ___ diagnosed with pancreatic cancer at age ___. 
Deceased from pancreatic cancer.

No other family history of heart or lung problems.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
==============================
Vitals:
Temp 98.0, HR 111, SpO2 90% non-rebreather + 6L NC, BP 128/98
Gen: sitting up in bed, appears anxious
HEENT: EOMI, PEERLA
Neck: no JVD
Cardiac: RRR, no murmurs
Respiratory: clear to auscultation bilaterally
Abd: soft, non-tender, normal bowels sounds
Extremities: 2+ peripheral pulses, trace edema to mid-shins 
bilaterally
Neuro: CN II-XII intact, left lower extremity ___ strength, 
right lower extremity ___ strength, "pins and needles sensation 
on right lower extremity" and normal sensation in left lower 
extremity

PHYSICAL EXAM ON DISCHARGE:
==============================
VS: Tm100 136/92-150/81 HR10___-124 RR20-24 ___ 4L NC (currently 
92)
I/O ___ since midnight
Gen: sitting up in bed, no acute distress
Neck: no JVD
Cardiac: tachycardic, regular, no murmurs
Respiratory: clear to auscultation 
Abd: soft, non-tender, normal bowels sounds
Extremities: 2+ peripheral pulses, no edema
Neuro: CN II-XII intact, left lower extremity ___ strength, 
right lower extremity ___ strength, "pins and needles sensation 
on right lower extremity" and normal sensation in left lower 
extremity

 
Pertinent Results:
LABS ON ADMISSION:
========================
___ 03:45PM BLOOD WBC-9.1 RBC-5.22 Hgb-15.4 Hct-47.9 MCV-92 
MCH-29.6 MCHC-32.2 RDW-12.7 Plt ___
___ 03:45PM BLOOD ___ PTT-88.1* ___
___ 07:13PM BLOOD ___ 03:45PM BLOOD Glucose-405* UreaN-15 Creat-0.9 Na-141 
K-4.9 Cl-104 HCO3-23 AnGap-19
___ 03:45PM BLOOD Calcium-9.3 Phos-3.1 Mg-1.6
___ 07:36PM BLOOD ___ Temp-36.8 pO2-32* pCO2-37 
pH-7.45 calTCO2-27 Base XS-0

LABS ON DISCHARGE:
========================
___ 06:15AM BLOOD WBC-10.8#####   RBC-5.24 Hgb-15.6 Hct-48.0 
MCV-92 MCH-29.8 MCHC-32.5 RDW-12.5 Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-310* UreaN-17 Creat-0.9 Na-138 
K-4.4 Cl-102 HCO3-22 AnGap-18
___ 06:15AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.7

STUDIES:
===========
CT chest with contrast ___ ___
There are large pulmonary emboli involving the main pulmonary 
arteries extending in the bilateral upper lobes, right middle 
lobe, and bilateral lower lobes. There is mild septal deviation 
to the left. The aortia is of normal caliber. There is no 
lymphadenopathy. The major airways are patent. There are 
grounglass opacities in the left upper lobe. There is no pleural 
effusion or pneumothorax. There is mild bibasilar subsegmental 
atelectasis, scarring. 

Impression:
Positive for pulmonary emboli with large clot burden.
Grounglass opacities in the left upper lobe, nonspecific, may be 
infectious/inflammatory or atypical pulmonary infarct.

Echo ___:
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). The right ventricular 
cavity is dilated with depressed free wall contractility. There 
is abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets are mildly 
thickened (?#####  ). There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Physiologic mitral regurgitation is seen (within 
normal limits). There is severe pulmonary artery systolic 
hypertension. There is no pericardial effusion. There is an 
anterior space which most likely represents a prominent fat pad. 


IMPRESSION: Dilated, hypokinetic right ventricle with abnormal 
septal motion suggestive of right ventricular pressure/volume 
overload (e.g. primary pulmonary process such as PE or COPD). 
Mildly dilated aortic root. Severe pulmonary artery systolic 
hypertension.

Lower extremity Doppler US:
Left deep venous thrombus within the proximal femoral vein 
extending to 
the popliteal vein, nonocclusive. Posterior tibial occlusive 
thrombus 
identified. Right popliteal deep venous non occlusive thrombus. 

 
Brief Hospital Course:
The patient is ___ year old male who presented with one day 
history of SOB found to have bilateral PE's at outside hospital, 
troponin of 0.32, sinus tachycardia on ECG, and right 
ventricular strain on Echo requiring transfer to CCU for 
thrombolysis.

#####  Bilateral Pulmonary Embolisms: 
Patient noted to have bilateral pulmonary embolism noted at 
outside hospital to have bilateral pulmonary embolism. The 
patient was transferred to the CCU for thrombolysis. The patient 
was started on tPA protocol as follows: tPA 10mg IV over 1 
minute then 40mg over 2 hours with continued Unfractionated 
heparin at 1000u/hour with transition to weight based heparin 
until therapeutic. Following this, the patient was started on 
xarelto 15 mg BID on ___ for 3 weeks and then continued on 
20 mg xarelto daily. Ambulating on 5L O2, he gets moderately SOB 
but mainatins O2 sat > 88%. He has been instructed to use O2 
with any exertion. The etiology of the patient's pulmonary 
embolism and lower extremity DVT's was unclear but thought to be 
due to possible factor V leiden deficiency and other work up 
given family history in mother of recurrent DVT's as well as 
recurrent DVT's in father. Plan for outpatient follow up with 
Hem/Onc to address hypercoagulable work up with Factor V Leiden 
and antiphospholipid syndrome. Patient also with plan to follow 
up with Dr. ___ in ___ clinic. 

#####  Hypoxia
Patient's hypoxia and oxygen requirement thought to be secondary 
to bilateral pulmonary embolisms as above. The patient was 
discharged with home oxygen requirement for sleep and 
ambulation.

#####  Type II Diabetes with peripheral neuropathy
Patient continued on ISS and daily lantus and humalog. Metformin 
held.
Gabapentin 100 mg TID continued

#####  HLD
Patient continued on simvastatin 40 mg daily.

#####  Chronic Low Back Pain
Patient with chronic low back pain. He was continued on tramadol 
50 mg daily. 

TRANSITIONAL ISSUES:
===========================
-Follow up with Hem/Onc as outpatient with work up for Factor V 
Leiden Deficiency
-Follow up with Dr. ___ in ___ clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADOL (Ultram) 50 mg PO TID PRN PAIN back pain 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. HumaLOG (insulin lispro) ___ units subcutaneous TID 
4. Humalog 15 Units Breakfast
Humalog 15 Units Lunch
Humalog 15 Units Dinner
lantus 25 Units Bedtime
5. Simvastatin 40 mg PO DAILY 
6. Gabapentin 100 mg PO BID 

 
Discharge Medications:
1. Gabapentin 100 mg PO BID 
2. Humalog 15 Units Breakfast
Humalog 15 Units Lunch
Humalog 15 Units Dinner
lantus 25 Units Bedtime
3. Simvastatin 40 mg PO DAILY 
4. TraMADOL (Ultram) 50 mg PO TID PRN PAIN back pain 
5. Rivaroxaban 15 mg PO/NG BID 
RX *rivaroxaban [Xarelto] 15 mg ONE tablet(s) by mouth twice a 
day Disp #####  *38 Tablet Refills:*0
RX *rivaroxaban [Xarelto] 20 mg ONE tablet(s) by mouth DAILY 
Disp #####  *30 Tablet Refills:*2
6. HumaLOG (insulin lispro) ___ units SUBCUTANEOUS TID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg one tablet(s) by mouth DAILY Disp #####  *30 Tablet 
Refills:*2
9. Oxygen
___ NP continuous. O2 sat < 86% RA. Pulse dose for 
portability. 
DX: 416 pulmonary embolus

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Pulmonary embolism (bilateral)
Lower extremity DVT

Secondary
Hyperlipidemia
Type I Diabetes
chronic lower back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___. You came in 
with shortness of breath and were found to have blood clots in 
both of your lungs and both of your legs. We started a 
medication called xarelto that you should take two times per day 
with food for three weeks and then once every day indefinately. 
This medication is a blood thinner that will help prevent more 
clots from forming. 

It has been a pleaure being involved in your care.
 
Followup Instructions:
___